US06756498B2
ii) 2-(3-Chlorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine
To a suspension of 1-(3-chlorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime (17 g, 54 mmol) in DME (170 ml) at −5° C. was added dropwise methanesulfonyl chloride (4.5 m, 6.0 mmol) and the mixture stirred for 15 mins. Triethylamine (16.5 ml, 120 mmol) in DME (7 ml) was then added dropwise over 15 min. After the addition was complete, the mixture was then warmed to 35° C. for 45 minutes. This was then cooled and filtered, washing with DME (20 ml). To the filtrate was added iron (II) chloride (75 mg) and the mixture heated to 70° C. for 1 hour and then allowed to cool. The reaction was concentrated to half the original volume and water (100 ml) was added. The resulting solid was removed by filtration, washed with water and dried. The solid was dissolved in ethyl acetate and washed with water and brine and then dried over magnesium sulfate. Filtering and evaporation to dryness under vacuum afforded 14.6 g (91%) of the title compound.

reactant | 1-(3-chlorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime | 54 mmol, 17 g | ClC=1C=C(C=CC1)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H10ClF3N2O
reactant | methanesulfonyl chloride | 6.0 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 120 mmol, 16.5 ml | C(C)N(CC)CC | C6H15N
solvent | DME | 170 ml | COCCOC | C4H10O2
solvent | DME | 7 ml | COCCOC | C4H10O2
product | 2-(3-Chlorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine | 14.6 g, 91% | ClC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1 | C14H8ClF3N2
